US07279481B2
(R)-2-(3-{2-[4-(2-Methyl-5-quinolinyl)-1-piperazinyl]ethyl}phenyl)hexahydro-3H-pyrrolo[1,2-c]imidazol-3-one (E162)
A solution of (R)-(1,1-dimethylethyl 2-{[(3-{2-[4-(2-methyl-5-quinolinyl)-1-piperazinyl]ethyl}phenyl)amino]methyl}-1-pyrrolidinecarboxylate in methanol was treated with absolution of hydrogen chloride in ether (1 M). The resulting mixture was stirred 30 minutes then concentrated under vacuum and then loaded onto an ion-exchange cartridge (SCX-2) and eluted with methanol followed by ammonia in methanol (1 M). The combined basic fractions were concentrated under vacuum. The residue, (10 mg) was then dissolved in DCM (1 mL) and treated with triphosgene (23 mg, 0.3 eq.), diisopropylamine (4 uL, 3 eq.). The mixture was stirred for 1 h then concentrated under vacuum and purified by preparative mass-directed hplc to afford the title compound (3.1 mg).

reactant | 1,1-dimethylethyl 2-{[(3-{2-[4-(2-methyl-5-quinolinyl)-1-piperazinyl]ethyl}phenyl)amino]methyl}-1-pyrrolidinecarboxylate | CC1=NC2=CC=CC(=C2C=C1)N1CCN(CC1)CCC=1C=C(C=CC1)NCC1N(CCC1)C(=O)OC(C)(C)C | C32H43N5O2
reactant | hydrogen chloride | Cl | ClH
reactant | triphosgene | 23 mg, 0.3 eq. | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | diisopropylamine | 4 uL, 3 eq. | C(C)(C)NC(C)C | C6H15N
solvent | methanol | CO | CH4O
solvent | ether | 1 M | CCOCC | C4H10O
product | (R)-2-(3-{2-[4-(2-Methyl-5-quinolinyl)-1-piperazinyl]ethyl}phenyl)hexahydro-3H-pyrrolo[1,2-c]imidazol-3-one | 3.1 mg | CC1=NC2=CC=CC(=C2C=C1)N1CCN(CC1)CCC=1C=C(C=CC1)N1C(N2[C@@H](C1)CCC2)=O | C28H33N5O
